US07064096B1
N-BuLi (173 mmol) was added to indene (173 mmol) in THF (70 mL) at ambient temperature using an oil bath as a heat sink. The reaction was stirred for 40 minutes, then added to n-butyl bromide (223 mmol) in THF (70 mL) at 0° C. The reaction was stirred overnight at ambient temperature, followed by standard aqueous workup. Evaporation of solvent followed by distillation under reduced pressure gave pure n-butylindene. n-BuLi (13.5 mmol) was added to n-butylindene (13.5 mmol) in THF (50 mL) and stirred for 1 hour. The solution was then added to ((tBu)3PN)TiCl3 (which was prepared by the reaction of TiCl4 with (tBu)3PN-TMS) slurried in toluene at −78° C. After stirring overnight at ambient temperature and the solvent was removed under vacuum. The residue was extracted into toluene, filtered and the filtrate concentrated. Addition of heptane precipitated the product that was isolated by filtration.

reactant | indene | 173 mmol | C1C=CC2=CC=CC=C12 | C9H8
reactant | n-butyl bromide | 223 mmol | C(CCC)Br | C4H9Br
solvent | THF | 70 mL | C1CCOC1 | C4H8O
solvent | THF | 70 mL | C1CCOC1 | C4H8O
product | n-butylindene | C(CCC)C1C=CC2=CC=CC=C12 | C13H16
